US05652239
b. Diethyl 5-Chloroindole-2,3-dicarboxylate
To a stirred solution of 4,4'-dichlorohydrazobenzene (1.2 g, 4.7 mM) in methanol (20 mL) was added diethyl acetylenedicarboxylate (1 mL, 6.0 mM). The resulting solution was heated to reflux for 17 hrs. At the end of this time, the reaction mixture was cooled to room temperature during which time a precipitate formed. This was filtered and then dissolved in diphenyl ether (2 mL). The resulting solution was heated to 200° C. for two hours. The reaction mixture was then cooled, diluted with hexane, and the resulting solid filtered and dried. This afforded the titled compound as a yellow solid (0.21 g, 40%) which was used without further purification in the next step. NMR (CDCl3, 300 MHz): 9.3 (br s, 1H), 8.07 (d, J=1 Hz), 7.34 (m, 2H). MS(CI): 296(M+1).

reactant | 4,4'-dichlorohydrazobenzene | 4.7 mM, 1.2 g | ClC1=CC=C(C=C1)NNC1=CC=C(C=C1)Cl | C12H10Cl2N2
reactant | diethyl acetylenedicarboxylate | 6.0 mM, 1 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | methanol | 20 mL | CO | CH4O
product | Diethyl 5-Chloroindole-2,3-dicarboxylate | 0.21 g, 40% | ClC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C(=O)OCC | C14H14ClNO4
